Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Brain stem hemorrhage
 
Major Surgical or Invasive Procedure:
___: Diagnostic angiogram

 
History of Present Illness:
Mrs. ___ is a ___ year old female with pmhx of HTN, HLD who
presented to OSH s/p fall. Patient states that she fell ___ overnight while intoxicated and woke up ___ morning.
Patient states that when she awoke she noted a left edematous 
and
ecchymotic orbit as well as left rib pain. Patient states that
___ morning, ___ she presented to OSH due to concerns of
her left rib pain. While at OSH she had a CTH which revealed a
hemorrhage right of the pons. Patient further transferred to
___ ED for neurosurgical evaluation. 

On evaluation in the ED patient is comfortable sitting in the
stretcher. She is alert and oriented, complains of being tired
and irritable due to lack of food and sleep. Patient states that
she has a very mild headache and significant left chest wall
pain. Patient denies lightheadedness, dizziness, visual changes,
numbness, tingling, nausea, vomiting, bowel or bladder concerns,
balance difficulties or any other complaints.
 
Past Medical History:
HTN
HLD
Cholecystectomy
C-section
GERD
 
Social History:
___
Family History:
Breast cancer
 
Physical Exam:
ON ADMISSION
============
T: 98.3  BP: 156/72  HR: 90  R: 20  O2Sats: 100% RA

Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  4-3mm bilaterally    
EOMs: Intact, no nystagmus
Extrem: Warm and well-perfused.

Date and Time of evaluation: ___ 1745

___ Coma Scale:
  [ ]Intubated   [X]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [X]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [X]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [X]6 Obeys commands

 __15__ Total

ICH Score:

GCS
     [ ]2     GCS ___
     [ ]1     GCS ___
     [X]0     GCS ___
     
ICH Volume 
     [ ]1     30 mL or Greater
     [X]0     Less than 30 mL

Intraventricular Hemorrhage
     [ ]1     Present
     [X]0     Absent

Infratentorial ICH
     ___     Yes
     [ ]0     No

Age
     [ ]1     ___ years old or greater
     [X]0     Less than ___ years old

Total Score: ___1___

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to
3mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift
noted. 

Sensation: Intact to light touch. 

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

Handedness Right

ON DISCHARGE
============
Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right  4-3mm             Left 4-3mm

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor: MAE ___

Angio site: R wrist. No edema, +CSM, palpable distal pulses
 
Pertinent Results:
See OMR
 
Brief Hospital Course:
On ___, Ms. ___ presented to OSH for evaluation of rib 
pain after a fall with head strike. ___ revealed a small 
pontine hemorrhage. She was transferred to ___ and admitted to 
the ___ for close neurologic monitoring.  On ___, she was 
taken for diagnostic angiogram which did not reveal underlying 
vascular abnormality. Her procedure was uncomplicated, please 
see operative note for full details.  Post-procedure, she was 
monitored in ___ where she remained neurologically and 
hemodynamically stable. On POD#1, she was discharged home in 
stable condition.
 
Medications on Admission:
Diltiazem 120mg daily
Rosuvastatin 10mg daily
Olmasartan 20mg dialy
Colace 100mg daily
Multivitamin daily
Fish oil daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID  
3.  Lidocaine 5% Patch 1 PTCH TD QAM L torso 
RX *lidocaine [Lidocaine Pain Relief] 4 % 1 patch to left torso 
On 12 hrs, off 12 hrs Disp #*1 Box Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tab by mouth Q4H PRN Disp #*10 Tablet 
Refills:*0 
5.  Diltiazem Extended-Release 120 mg PO DAILY  
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  olmesartan 20 mg oral DAILY  
8.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pontine abnormality
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your puncture site.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your puncture site.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Care of the Puncture Site
• You will have a small bandage over the site.
• Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (wrist).
• Soreness in your arms from the intravenous lines.
• Mild to moderate headaches that last several days to a few 
weeks.
• Fatigue is very normal
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.

Headaches:
• Headache is very common after head injury. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Constipation
• Blood in your stool or urine
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___